US06720338B2
2,2-difluoro-2-(phenylthio)ethanamine
A mixture of 2,2-difluoro-2-phenylsulfanylacetamide (1 g, 4.92 mmol) in THF at room temperature was treated with BH3.THF (1M, 25 mL), stirred for 18 hours, quenched with methanol (5 mL), and concentrated. The concentrate was treated with 2M HCl and heated to 80° C. for 30 minutes and concentrated. The concentrate was partitioned between dichloromethane and saturated sodium bicarbonate, and the organic phase was dried (MgSO4), filtered, and concentrated to provide the desired product. MS (ESI(+)) m/e 190 (M+H)+.

reactant | 2,2-difluoro-2-phenylsulfanylacetamide | 4.92 mmol, 1 g | FC(C(=O)N)(SC1=CC=CC=C1)F | C8H7F2NOS
reactant | BH3.THF | 1M, 25 mL | B.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | 2,2-difluoro-2-(phenylthio)ethanamine | FC(CN)(SC1=CC=CC=C1)F | C8H9F2NS
